US04031082
To 5 ml. of fresh acetic anhydride were added 500 mg. (1 millimole) of p-nitrobenzyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate-1-oxide. To the resulting mixture was added one drop of acetyl chloride. The mixture was refluxed at 130°--140° C. for 2.75 hours and then was cooled. Ethyl acetate was added, and the mixture was washed with aqueous sodium bicarbonate and then with water. The resulting organic layer was separated and evaporated to obtain p-nitrobenzyl 7-phenoxyacetamido-3-acetoxymethyl-2-cephem-4-carboxylate as a foam.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-nitrobenzyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate-1-oxide | 1 millimole | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2=O)=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O8S
catalyst | acetyl chloride | one drop | C(C)(=O)Cl | C2H3ClO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl 7-phenoxyacetamido-3-acetoxymethyl-2-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C25H23N3O9S
